US07189851B2
C. 4-[(9aS)-2-(4-fluorobenzyl)-5-oxo-7,8,9,9a-tetrahydro-5H-pyrido[2,3-a]pyrrolizin-4-yl]benzoic acid
A benzene (10 mL) solution of tert-Butyl (2S)-2-(3-ethoxy-3-oxopropanoyl)-1-pyrrolidinecarboxylate (1.93 g, 6.77 mmol), 4-carboxybenzaldehyde (1.01 g, 6.77 mmol) and piperidine (0.335 mL, 3.39 mmol) was refluxed with azeotropic removal of H2O for 1.5 h and then cooled to ambient temperature and concentrated. The residue was redissolved in EtOAc and washed with 1×1 N HC1, 2× H2O, 1× brine and the organics dried (Na2SO4), filtered and concentrated to an amorphous brown solid. The Knoevenagel product (2.83 g, 6.77 mmol) and allyl (2Z)-3-amino-4-(4-fluorophenyl)-2-butenoate (1.59 g, 6.77 mmol) were heated to 110° C. for 1.5 h and then cooled to ambient temperature. The dihydropyridine product (2.35 g, 3.71 mmol) was redissolved in CH3CN (10 mL) and to this was added morpholine (0.648 mL, 3.71 mmol) and Pd(PPh3)4 (0.215 g, 0.186 mmol). The reaction mixture was stirred at ambient temperature for 1.5 h and then filtered through Celite and concentrated. The residue was redissolved in toluene and heated to reflux for 6 h. The reaction was concentrated and redissolved in CH3CN (10 mL) and H2O (10 mL) followed by addition of ceric ammonium nitrate (4.06 g, 7.40 mmol). The reaction mixture stirred for 15 min at ambient temperature and then EtOAc was added and the organics extracted and washed 1× H2O, 1× brine, and then dried (Na2SO4), filtered and concentrated to a dark tan solid. The solid was subjected to TFA (4.5 mL in 1 mL CH2Cl2) for 1 h and then concentrated. The residue was redissolved in CH2Cl2 (5 mL) and treated with Et3N (3 mL). After 16 h the reaction mixture was concentrated to a brown foam. The residue was redissolved in EtOAc and washed 1× pH 4.5 buffer, 1×brine and the organics dried (Na2SO4), filtered and concentrated to yield 0.800 g (54% yield) of the title compound as a tan solid. 1H NMR (CDCl3, 400 MHz) δ 8.10 (d, J=8.0 Hz, 2H), 7.63 (d, J=8.3 Hz), 7.25 (t, J=7.3 Hz, 2H), 7.12 (s, 1H), 6.99 (t, J=8.6 Hz, 2H), 4.78–4.74 (m, 1H), 4.25 (s, 2H), 3.78–3.71 (m, 1H), 3.44–3.38 (m, 1H), 2.52–2.47 (m, 1H), 2.37–2.31 (m, 2H), 1.44–1.39 (m, 1H); ESMS m/z 403 (M+H)+, 401 (M−H)+.

reactant | tert-Butyl (2S)-2-(3-ethoxy-3-oxopropanoyl)-1-pyrrolidinecarboxylate | 6.77 mmol, 1.93 g | C(C)OC(CC(=O)[C@H]1N(CCC1)C(=O)OC(C)(C)C)=O | C14H23NO5
reactant | 4-carboxybenzaldehyde | 6.77 mmol, 1.01 g | C(=O)(O)C1=CC=C(C=O)C=C1 | C8H6O3
reactant | piperidine | 3.39 mmol, 0.335 mL | N1CCCCC1 | C5H11N
reactant | allyl (2Z)-3-amino-4-(4-fluorophenyl)-2-butenoate | 6.77 mmol, 1.59 g | N\C(=C/C(=O)OCC=C)\CC1=CC=C(C=C1)F | C13H14FNO2
reactant | dihydropyridine | 3.71 mmol, 2.35 g | N1CC=CC=C1 | C5H7N
reactant | morpholine | 3.71 mmol, 0.648 mL | N1CCOCC1 | C4H9NO
solvent | CH3CN | 10 mL | CC#N | C2H3N
catalyst | Pd(PPh3)4 | 0.186 mmol, 0.215 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | H2O | 10 mL | O | H2O
solvent | benzene | 10 mL | C1=CC=CC=C1 | C6H6
product | 4-[(9aS)-2-(4-fluorobenzyl)-5-oxo-7,8,9,9a-tetrahydro-5H-pyrido[2,3-a]pyrrolizin-4-yl]benzoic acid | 0.800 g, 54% yield | FC1=CC=C(CC=2C=C(C3=C([C@@H]4CCCN4C3=O)N2)C2=CC=C(C(=O)O)C=C2)C=C1 | C24H19FN2O3
